### PR TITLE
[Merged by Bors] - feat: port LinearAlgebra.QuadraticForm.Basic

### PR DESCRIPTION
**Pull request by urkud**
---

I get compile failures in a seemingly unrelated file. Possibly, because of the new `instCoeFun`.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by urkud** [comment]
It looks like the new `CoeFun` instance causes a timeout elsewhere.

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,1191 @@
...
+
+instance funLike : FunLike (QuadraticForm R M) M fun _ => R where
+  coe := toFun
+  coe_injective' x y h := by cases x; cases y; congr
+#align quadratic_form.fun_like QuadraticForm.funLike
+
+/-- Helper instance for when there's too many metavariables to apply
+`FunLike.hasCoeToFun` directly. -/
+instance : CoeFun (QuadraticForm R M) fun _ => M → R :=
+  ⟨FunLike.coe⟩
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:156]: I recall that we decided to only port the `FunLike` instances and skip the `CoeFun` instances (as also suggested by the comment in `LinearMap`). Did we change this at some point?

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,1191 @@
...
+
+variable (Q)
+
+/-- The `simp` normal form for a quadratic form is `coeFn`, not `toFun`. -/
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:160]:
```suggestion
/-- The `simp` normal form for a quadratic form is `FunLike.coe`, not `toFun`. -/
```

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,1191 @@
...
+  simp [h]
+  abel
+#align quadratic_form.map_add_add_add_map QuadraticForm.map_add_add_add_map
+
+theorem map_add_self (x : M) : Q (x + x) = 4 * Q x := by
+  rw [← one_smul R x, ← add_smul, map_smul]
+  norm_num
+#align quadratic_form.map_add_self QuadraticForm.map_add_self
+
+-- porting note: removed @[simp]
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:230]: I assume this is because of the `simpNF` linter?
```suggestion
-- porting note: removed @[simp] because it is superseded by `ZeroHomClass.map_zero`
```

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,1191 @@
...
+
+/-- Symmetric bilinear forms can be lifted to quadratic forms -/
+instance canLift : CanLift (BilinForm R M) (QuadraticForm R M) (associatedHom ℕ) BilinForm.IsSymm
+    where prf B hB := ⟨B.toQuadraticForm, associated_left_inverse _ hB⟩
+#align quadratic_form.can_lift QuadraticForm.canLift
+
+/-- There exists a non-null vector with respect to any quadratic form `Q` whose associated
+bilinear form is non-zero, i.e. there exists `x` such that `Q x ≠ 0`. -/
+theorem exists_quadraticForm_ne_zero {Q : QuadraticForm R M}
+    -- Porting note: added type ascription
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:838]: A type ascription is the syntax of the form `(Q : QuadraticForm R M)`. So:
```suggestion
    -- Porting note: added implicit argument
```

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,1191 @@
...
+end Semiring
+
+section Ring
+
+variable [Ring R] [AddCommGroup M] [Module R M]
+
+/-- The associated bilinear form of an anisotropic quadratic form is nondegenerate. -/
+theorem nondegenerate_of_anisotropic [Invertible (2 : R)] (Q : QuadraticForm R M)
+    (hB : Q.Anisotropic) :
+    -- Porting note: added type ascription
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:906]:
```suggestion
    -- Porting note: added implicit argument
```

File: Mathlib/Algebra/Module/LinearMap.lean [hunk 6]
```diff
@@ -209,12 +209,10 @@ instance semilinearMapClass : SemilinearMapClass (M →ₛₗ[σ] M₃) σ M M
   map_smulₛₗ := LinearMap.map_smul'
 #align linear_map.semilinear_map_class LinearMap.semilinearMapClass
 
--- Porting note: we don't port specialized `CoeFun` instances if there is `FunLike` instead
-#noalign LinearMap.has_coe_to_fun
-
 -- Porting note: adding this instance prevents a timeout in `ext_ring_op`
-instance {σ : R →+* S} : FunLike (M →ₛₗ[σ] M₃) M (λ _ ↦ M₃) :=
-  { AddHomClass.toFunLike with }
+instance instCoeFun {σ : R →+* S} : CoeFun (M →ₛₗ[σ] M₃) (λ _ ↦ M → M₃) :=
```
[the remark this answers is not in the document]
Comment (urkud) [reply Mathlib/Algebra/Module/LinearMap.lean:213]: The reason is the same as we had in Lean 3: without this instance, Lean sometimes fails to find coercion to function. Note that I use `FunLike.coe`, not `toFun`, so it unfolds to the same expression. Possibly, we should change it everywhere.

[the remark this answers is not in the document]
Comment (jcommelin) [reply Mathlib/Algebra/Module/LinearMap.lean]: I removed this instance again, and fixed the 3 errors in the file-to-be-ported by making some arguments explicit.

**Comment by ChrisHughes24** [comment]
bors merge
